* /home/roshan/esim-workspace/8bit_micro/8bit_micro.cir

* u3  clk net-_u1-pad1_ adc_bridge_1
* u4  net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ o1 o2 o3 o4 o5 o6 o7 o8 dac_bridge_8
* u5  net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ o9 o10 o11 o12 o13 o14 o15 o16 dac_bridge_8
* u6  net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ o17 o18 o19 o20 o21 o22 dac_bridge_6
* u7  o1 plot_v1
* u8  o2 plot_v1
* u9  o3 plot_v1
* u10  o4 plot_v1
* u11  o5 plot_v1
* u12  o6 plot_v1
* u13  o7 plot_v1
* u14  o8 plot_v1
* u15  o9 plot_v1
* u16  o10 plot_v1
* u17  o11 plot_v1
* u18  o12 plot_v1
* u19  o13 plot_v1
* u20  o14 plot_v1
* u21  o15 plot_v1
* u22  o16 plot_v1
* u23  o17 plot_v1
* u24  o18 plot_v1
* u25  o19 plot_v1
* u26  o20 plot_v1
* u27  o21 plot_v1
* u28  o22 plot_v1
* u2  clk plot_v1
v1  clk gnd pulse(5 0 1m 1m 1m 20 40)
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ cpu
a1 [clk ] [net-_u1-pad1_ ] u3
a2 [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ] [o1 o2 o3 o4 o5 o6 o7 o8 ] u4
a3 [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ ] [o9 o10 o11 o12 o13 o14 o15 o16 ] u5
a4 [net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ ] [o17 o18 o19 o20 o21 o22 ] u6
a5 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ] [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             cpu, NgSpice Name: cpu
.model u1 cpu(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 1280e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o1)
plot v(o2)
plot v(o3)
plot v(o4)
plot v(o5)
plot v(o6)
plot v(o7)
plot v(o8)
plot v(o9)
plot v(o10)
plot v(o11)
plot v(o12)
plot v(o13)
plot v(o14)
plot v(o15)
plot v(o16)
plot v(o17)
plot v(o18)
plot v(o19)
plot v(o20)
plot v(o21)
plot v(o22)
plot v(clk)
.endc
.end
